US07468462B2
1-(5-Bromo-2-methoxyphenyl)-adamantane
Reagent grade concentrated H2SO4 (11 mL) was added dropwise to a solution of 1-adamantol (30.25 g, 200 mmol) and 4-bromoanisole (37.21 g, 200 mmol) in 130 mL of CH2Cl2. The light pink solution was stirred at ambient temperature for 20 hours. The solvent was decanted, water (100 mL) and hexane (100 mL) were added and the solid was filtered and washed with hexane and dried to give 31 g of the product as a white powder. The supernatant was diluted with hexane, washed with water and brine, dried over MgSO4 and filtered thru a silica gel pad. The solvent was removed and the solid was recrystallized from hexane to yield 17 g of the product as a white powder.

reactant | H2SO4 | 11 mL | OS(=O)(=O)O | H2O4S
reactant | 1-adamantol | 200 mmol, 30.25 g | C1C2CC3CC1CC(C2)(C3)O | C10H16O
reactant | 4-bromoanisole | 200 mmol, 37.21 g | BrC1=CC=C(C=C1)OC | C7H7BrO
solvent | CH2Cl2 | 130 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-Bromo-2-methoxyphenyl)-adamantane | 31 g | BrC=1C=CC(=C(C1)C12CC3CC(CC(C1)C3)C2)OC | C17H21BrO
